US05919984
dppmO, Ph2PCH2P(O)Ph2
A mixture of palladium acetate (5 mg; 2.2×10-2 mmol), dppm (2.00 g; 5.21 mmol), 1,2-dibromoethane (2.0 g; 10.64 mmol), and dichloromethane (10 mL) was stirred for 20 minutes. To this solution, aqueous NaOH (20% by weight; 6 mL) containing NaI (40 mg; 0.27 mmol) was added and the mixture was vigorously stirred under reflux for 4 hours. The organic phase was filtered through a silica plug which was then washed with CH2Cl2 /AcOEt (3:1 by volume). The combined organic solutions were evaporated to dryness. The solid residue was dissolved in the minimum amount of boiling CH2Cl2, the warm solution was treated with ether (100 mL; portionwise) and left at room temperature for 2 hours. Slightly yellowish fluffy needles of spectroscopically and TLC pure dppmO were separated, washed with ether, and dried under vacuum. The yield was 1.53 g (74%). 1H NMR (CDCl3, 20° C.), δ: 3.1 (d, 2H, J=12.7 Hz, CH2); 7.1-7.9 (m, 20H, Ph). 31P NMR (CDCl3, 20° C.), δ: -26.5 (d, 1P, JP-P =50.5 Hz, PPh2); 29.8 (d, 1P, JP-P =50.5 Hz, P(O)Ph2).

reactant | dppm | 5.21 mmol, 2.00 g | C=1C=CC(=CC1)P(CP(C=2C=CC=CC2)C=3C=CC=CC3)C=4C=CC=CC4 | C25H22P2
reactant | 1,2-dibromoethane | 10.64 mmol, 2.0 g | BrCCBr | C2H4Br2
reactant | NaOH | 6 mL | [OH-].[Na+]
reactant | NaI | 0.27 mmol, 40 mg | [Na+].[I-]
catalyst | palladium acetate | 2.2×10-2 mmol, 5 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | Ph2PCH2P(O)Ph2 | P(C1=CC=CC=C1)(C1=CC=CC=C1)CP(=O)(C1=CC=CC=C1)C1=CC=CC=C1 | C25H22OP2
